US07244736B2
2-pyrazin-2-yl-5-(2,4,6-trifluoro-phenyl)-pyrimidine-4,6-diol
A mixture of 2-(2,4,6-trifluoro-phenyl)-malonic acid diethyl ester (200 g, 0.67 mol), pyrazine-2-carboxamidine hydrochloride (132 g, 0.828 mol) and potassium carbonate (114 g, 0.828 mol) in 2-methyoxyethyl ether (diglyme, 600 mL) is heated to 120° C. and stirred for 4 h, then heated to 140° C. and stirred for an additional 2 h. The mixture is cooled to room temperature (25–30° C.) and water (1200 mL) is added over about 15 min. Acetic acid (50 g) is added over 15 min. and 82 ml of concentrated HCl is added over 15 min and the mixture is stirred for about 15 min. at room temperature at a pH of about 2–3. The solid is filtered and washed with water (2×400 mL) and isopropyl alcohol (IPA) (400 mL) and dried at 60° C./10 mmHg for 24 h to give a white solid 69% yield with 95% HPLC purity. 1H NMR (DMSO-d6): d 12.45 (bs, 2H), 9.41(s,1H), 8.91(s,1H), 8.46(m, 1H), 7.23(m, 2H).

reactant | 2-(2,4,6-trifluoro-phenyl)-malonic acid diethyl ester | 0.67 mol, 200 g | C(C)OC(C(C(=O)OCC)C1=C(C=C(C=C1F)F)F)=O | C13H13F3O4
reactant | pyrazine-2-carboxamidine hydrochloride | 0.828 mol, 132 g | Cl.N1=C(C=NC=C1)C(=N)N
reactant | potassium carbonate | 0.828 mol, 114 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 82 ml | Cl | ClH
solvent | 2-methyoxyethyl ether | 600 mL | COCCOCCOC | C6H14O3
solvent | Acetic acid | 50 g | C(C)(=O)O | C2H4O2
solvent | water | 1200 mL | O | H2O
product | 2-pyrazin-2-yl-5-(2,4,6-trifluoro-phenyl)-pyrimidine-4,6-diol | 69% yield | N1=C(C=NC=C1)C1=NC(=C(C(=N1)O)C1=C(C=C(C=C1F)F)F)O | C14H7F3N4O2
